US07645753B2
3-Ethoxy-4-hydroxy-5-nitro-benzoic acid methyl ester
To a solution of 3-ethoxy-4-hydroxy-benzoic acid methyl ester (5.3 g, 27.0 mmol, 1.0 equiv) in diethyl ether (60 mL) was added dropwise nitric acid 65% (3.71 mL, 5.24 g, 54.0 mmol, 2.0 equiv) over a period of 30 min. After the addition was completed the reaction mixture was stirred for 4 h at rt. The reaction product precipitated out of solution, was filtered off, washed with cold diethyl ether (3×20 mL) and dried yielding 4.61 g (%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.53 (t, J=7.0 Hz, 3H), 3.94 (s, 3H), 4.21 (q, J=7.0 Hz, 2H), 7.75 (d, J=1.8 Hz, 1H), 8.42 (d, J=1.8 Hz, 1H), 11.01 (s, 1H). 13C NMR (75 MHz, CDCl3): δ 14.56, 52.59, 65.77, 118.37, 118.54, 121.36, 133.59, 149.44, 149.83, 165.09. MS (ISN): 240.1 [M−H]−.

reactant | 3-ethoxy-4-hydroxy-benzoic acid methyl ester | 27.0 mmol, 5.3 g, 1.0 equiv | COC(C1=CC(=C(C=C1)O)OCC)=O | C10H12O4
reactant | nitric acid | 54.0 mmol, 3.71 mL, 5.24 g, 2.0 equiv | [N+](=O)(O)[O-] | HNO3
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 3-Ethoxy-4-hydroxy-5-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)OCC)=O | C10H11NO6
